US07473783B2
To a stirring solution of 4-bromo-5-(3-chloro-phenyl)-2H-pyrazol-3-ylamine (50 mg, 0.183 mmol) in dioxane (1 mL) was added benzoyl isothiocyanate (27 μL, 0.202 mmol). The reaction mixture was stirred overnight at 90° C., cooled at room temperature, and partitioned between ethyl acetate and sodium bicarbonate. The organic layer was isolated and absorbed on silica gel. Purification on silica gel with 0-10% MeOH in CH2Cl2 as eluent provided 10.8 mg (17%) of N-[3-(3-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-benzamide as a white solid. 1H NMR (d6-DMSO) δ: 13.70 and 13.72 (2 broad s, 1H, NH+tautomer), 12.9 (broad s, 1H, NH), 8.12 (d, 2H), 7.81 and 7.85 (2 broad s, 1H, tautomers), 7.65-7.74 (m, 2H), 7.54-7.62 (m, 3H), 7.45 (m, 1H); HPLC/MS m/z: 355 [MH]+.

reactant | 4-bromo-5-(3-chloro-phenyl)-2H-pyrazol-3-ylamine | 0.183 mmol, 50 mg | BrC1=C(NN=C1C1=CC(=CC=C1)Cl)N | C9H7BrClN3
reactant | benzoyl isothiocyanate | 0.202 mmol, 27 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-[3-(3-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-benzamide | 10.8 mg, 17% | ClC=1C=C(C=CC1)C1=NNC=2N=C(SC21)NC(C2=CC=CC=C2)=O | C17H11ClN4OS
